US07196114B2
c) 1-[3-[3-(2-Chloro-4,5-difluorobenzoyl)ureido]-5-(piperidine-1-sulfonyl)-thiophen-2-yl]piperidine-4-carboxylic acid
1-[3-Amino-5-(piperidine-1-sulfonyl)thiophen-2-yl]piperidine-4-carboxylic acid (0.2 g of crude product) is dissolved in 2 ml of acetonitrile and admixed with the equimolar solution of 2-chloro-4,5-difluorobenzoyl isocyanate in acetonitrile, and the mixture is stirred at RT. After 3 hours, the solid is filtered off with suction and dried under reduced pressure.

reactant | 1-[3-Amino-5-(piperidine-1-sulfonyl)thiophen-2-yl]piperidine-4-carboxylic acid | 0.2 g | NC1=C(SC(=C1)S(=O)(=O)N1CCCCC1)N1CCC(CC1)C(=O)O | C15H23N3O4S2
reactant | 2-chloro-4,5-difluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=C(C(=C1)F)F | C8H2ClF2NO2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-[3-[3-(2-Chloro-4,5-difluorobenzoyl)ureido]-5-(piperidine-1-sulfonyl)-thiophen-2-yl]piperidine-4-carboxylic acid | ClC1=C(C(=O)NC(NC2=C(SC(=C2)S(=O)(=O)N2CCCCC2)N2CCC(CC2)C(=O)O)=O)C=C(C(=C1)F)F | C23H25ClF2N4O6S2
